US05674467
a) 5,10,15,20-Tetrakis-[3-(methoxycarbonylmethyl)-phenyl]-porphyrin
17.82 g (0.10 mol) of (3-formylphenyl)-acetic acid methyl ester (B RN 3231441) is dissolved in 300 ml of propionic acid and the solution is heated to 60° C. 6.71 g (0.10 mol) of pyrrole is instilled slowly and the dark solution is stirred for 1 hour at 110° C. After cooling, it is completely concentrated by evaporation in a vacuum, the residue is taken up in dichloromethane and shaken out with saturated aqueous sodium bicarbonate solution. After the drying of the organic phase on sodium sulfate, it is filtered and concentrated by evaporation, and the residue is chromatographed on silica gel 60 (Merck) with dichloromethane/methanol. The residue of the product fractions that are concentrated by evaporation is recrystallized from isopropanol.

reactant | (3-formylphenyl)-acetic acid methyl ester | 0.10 mol, 17.82 g | COC(CC1=CC(=CC=C1)C=O)=O | C10H10O3
reactant | pyrrole | 0.10 mol, 6.71 g | N1C=CC=C1 | C4H5N
solvent | propionic acid | 300 ml | C(CC)(=O)O | C3H6O2
product | 5,10,15,20-Tetrakis-[3-(methoxycarbonylmethyl)-phenyl]-porphyrin | COC(=O)CC=1C=C(C=CC1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC(=CC=C4)CC(=O)OC)N3)C3=CC(=CC=C3)CC(=O)OC)=N2)C2=CC(=CC=C2)CC(=O)OC | C56H46N4O8
